US07635715B2
Step D: Preparation of Ethyl 7-trifluoromethyl-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate
H2SO4 (25 mL, 296 mmol) was cooled to 0° C. and treated with P2O5 (10 g, 70 mmol). The mixture was brought to room temperature and added to diethyl 2-(4-(3-(trifluoromethyl)phenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate (4.27 g, 10 mmol). The reaction mixture was then stirred for 1.5 hours. Ice (H2O) was added, and the aqueous mixture was extracted with EtOAc (2×). The combined organic layers were washed with water (2×) and brine, dried (MgSO4), and concentrated in vacuo to give the crude compound as a brown oil. The crude oil was purified by silica flash chromatography (0-100% DCM/hexane) to give the desired compound as a white solid (1.32 g). MS (m/e)=371.2 (M+H)+.

reactant | H2SO4 | 296 mmol, 25 mL | OS(=O)(=O)O | H2O4S
reactant | P2O5 | 70 mmol, 10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | diethyl 2-(4-(3-(trifluoromethyl)phenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | 10 mmol, 4.27 g | FC(C=1C=C(C=CC1)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC)(F)F | C20H23F3O6
product | Ethyl 7-trifluoromethyl-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 1.32 g | FC(C1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)OCC)O)(F)F | C18H17F3O5
